US07442830B1
To a solution of [(2,3-difluorobenzoyl)amino]acetic acid (0.205 g, 0.95 mmol) in dimethylformamide (10 mL) were added TBTU (0.337 g, 1.0 mmol) and (1R)-3-methyl-1-[(3aS,4S,6S,7aR)-3a,5,5-trimethylhexahydro-4,6-methano-1,3,2-benzodioxaborol-2-yl]butan-1-amine as its trifluoroacetate salt (0.362 g, 0.95 mmol). The mixture was allowed to cool to 0° C. and DIEA (0.498 mL, 2.9 mmol) was added dropwise. The reaction mixture was allowed to warm to room temperature and stirred overnight. The reaction was quenched with water (100 mL) and the product partitioned into DCM. The organic layer was dried over sodium sulfate and the solvent removed to give 2,3-difluoro-N-[2-({(1R)-3-methyl-1-[(3aR,4R,6R,7aS)-3a,5,5-trimethylhexahydro-4,6-methano-1,3,2-benzodioxaborol-2-yl]butyl}amino)-2-oxoethyl]benzamide.

reactant | [(2,3-difluorobenzoyl)amino]acetic acid | 0.95 mmol, 0.205 g | FC1=C(C(=O)NCC(=O)O)C=CC=C1F | C9H7F2NO3
reactant | TBTU | 1.0 mmol, 0.337 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | (1R)-3-methyl-1-[(3aS,4S,6S,7aR)-3a,5,5-trimethylhexahydro-4,6-methano-1,3,2-benzodioxaborol-2-yl]butan-1-amine | CC(C[C@H](N)B1O[C@@]2([C@H](O1)C[C@H]1C([C@@H]2C1)(C)C)C)C | C15H28BNO2
reactant | trifluoroacetate | 0.95 mmol, 0.362 g | FC(C(=O)[O-])(F)F
reactant | DIEA | 2.9 mmol, 0.498 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | 2,3-difluoro-N-[2-({(1R)-3-methyl-1-[(3aR,4R,6R,7aS)-3a,5,5-trimethylhexahydro-4,6-methano-1,3,2-benzodioxaborol-2-yl]butyl}amino)-2-oxoethyl]benzamide | FC1=C(C(=O)NCC(=O)N[C@@H](CC(C)C)B2O[C@]3([C@@H](O2)C[C@@H]2C([C@H]3C2)(C)C)C)C=CC=C1F | C24H33BF2N2O4
